US06652834B2
B) 2-Hydroxy-N,N-dioctadecylacetamide
(Acetyloxy)acetyl chloride (3.8 g; 28.1 mmol) (commercial product) dissolved in CHCl3 (150 mL) was added dropwise to a solution of dioctadecylamine (13.3 g; 25.5 mmol) and Et3N (3.9 mL; 28.1 mmol) in CHCl3 (350 mL) and the solution was stirred at room temperature overnight. MeOH (250 mL) and 2 N NaOH (50 mL) were added to the solution. H2O was added to the reaction mixture and a two phase system was obtained. The lower organic layer was separated and evaporated. The solid residue was suspended in n-hexane and filtered to give the desired compound (12.1 g;20.9 mmol). Yield 82%. HPLC: 96% (area %). K.F.: <0.1%. The 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | (Acetyloxy)acetyl chloride | 28.1 mmol, 3.8 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | N-Octadecyl-1-octadecanamine | 25.5 mmol, 13.3 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | Et3N | 28.1 mmol, 3.9 mL | CCN(CC)CC | C6H15N
reactant | NaOH | 2 N, 50 mL | [OH-].[Na+]
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 350 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
solvent | MeOH | 250 mL | CO | CH4O
product | 2-Hydroxy-N,N-dioctadecylacetamide | 20.9 mmol, 12.1 g, Yield 82% | OCC(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C38H77NO2
